*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EMZR350ARA561MJA0G
*//   Date        : 2018/02/08
*//   Update 	  : 2018/06/15 Added SPICE model (-55deg.C/105deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZR350ARA561MJA0G_20deg-C 1 2

C1 4 2 2.26e-04
C2 5 2 2.57e-04
C3 6 2 4.78e-05
R1 3 4 4.59e-02
R2 4 5 3.13e-02
R3 5 6 2.01e+00
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMZR350ARA561MJA0G_-55deg-C 1 2

C1 4 2 1.32e-05
C2 5 2 1.27e-04
C3 6 2 3.10e-04
R1 3 4 4.55e-01
R2 4 5 9.19e-02
R3 5 6 3.08e-01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMZR350ARA561MJA0G_105deg-C 1 2

C1 4 2 3.12e-04
C2 5 2 2.26e-04
C3 6 2 4.25e-05
R1 3 4 2.60e-02
R2 4 5 2.12e-02
R3 5 6 1.62e+00
L1 1 3 4.50e-09

.ENDS
*$
